### PR TITLE
feat(SpecialFunctions/Pow): versions of `le_rpow_inv_iff` for negative exponents

### PR DESCRIPTION
**Pull request by D-Thomine**
This PR introduces negative exponent versions of `le_rpow_inv_iff` and `rpow_le_inv_iff`, and golfs a few adjacent lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 1]
```diff
@@ -813,22 +813,27 @@ lemma max_rpow {x y : ℝ≥0∞} {p : ℝ} (hp : 0 ≤ p) : max x y ^ p = max (
   · rw [max_eq_left hxy, max_eq_left (rpow_le_rpow hxy hp)]
 
 theorem le_rpow_inv_iff {x y : ℝ≥0∞} {z : ℝ} (hz : 0 < z) : x ≤ y ^ z⁻¹ ↔ x ^ z ≤ y := by
-  nth_rw 1 [← rpow_one x]
-  nth_rw 1 [← @mul_inv_cancel₀ _ _ z hz.ne']
-  rw [rpow_mul, @rpow_le_rpow_iff _ _ z⁻¹ (by simp [hz])]
+  nth_rw 1 [← rpow_one x, ← mul_inv_cancel₀ hz.ne']
+  rw [rpow_mul, rpow_le_rpow_iff (inv_pos_of_pos hz)]
```
Comment (felixpernegger) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]:
```suggestion
  nth_rw 1 [← rpow_one x, ← mul_inv_cancel₀ hz.ne', rpow_mul, rpow_le_rpow_iff (inv_pos_of_pos hz)]
```
why not 1 line when we are at it

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 2]
```diff
@@ -813,22 +813,27 @@ lemma max_rpow {x y : ℝ≥0∞} {p : ℝ} (hp : 0 ≤ p) : max x y ^ p = max (
...
 
 theorem rpow_inv_lt_iff {x y : ℝ≥0∞} {z : ℝ} (hz : 0 < z) : x ^ z⁻¹ < y ↔ x < y ^ z := by
   simp only [← not_le, le_rpow_inv_iff hz]
 
 theorem lt_rpow_inv_iff {x y : ℝ≥0∞} {z : ℝ} (hz : 0 < z) : x < y ^ z⁻¹ ↔ x ^ z < y := by
-  nth_rw 1 [← rpow_one x]
-  nth_rw 1 [← @mul_inv_cancel₀ _ _ z (ne_of_lt hz).symm]
-  rw [rpow_mul, @rpow_lt_rpow_iff _ _ z⁻¹ (by simp [hz])]
+  nth_rw 1 [← rpow_one x, ← mul_inv_cancel₀ hz.ne']
+  rw [rpow_mul, rpow_lt_rpow_iff (inv_pos_of_pos hz)]
```
Comment (felixpernegger) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]:
```suggestion
  nth_rw 1 [← rpow_one x, ← mul_inv_cancel₀ hz.ne', rpow_mul, rpow_le_rpow_iff (inv_pos_of_pos hz)]
```

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 3]
```diff
@@ -813,22 +813,27 @@ lemma max_rpow {x y : ℝ≥0∞} {p : ℝ} (hp : 0 ≤ p) : max x y ^ p = max (
...
 
 theorem rpow_inv_le_iff {x y : ℝ≥0∞} {z : ℝ} (hz : 0 < z) : x ^ z⁻¹ ≤ y ↔ x ≤ y ^ z := by
-  nth_rw 1 [← ENNReal.rpow_one y]
-  nth_rw 1 [← @mul_inv_cancel₀ _ _ z hz.ne.symm]
-  rw [ENNReal.rpow_mul, ENNReal.rpow_le_rpow_iff (inv_pos.2 hz)]
+  nth_rw 1 [← rpow_one y, ← mul_inv_cancel₀ hz.ne']
+  rw [rpow_mul, rpow_le_rpow_iff (inv_pos.2 hz)]
```
Comment (felixpernegger) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]:
```suggestion
  nth_rw 1 [← rpow_one y, ← mul_inv_cancel₀ hz.ne', rpow_mul, rpow_le_rpow_iff (inv_pos.2 hz)]
```

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 4]
```diff
@@ -813,22 +813,27 @@ lemma max_rpow {x y : ℝ≥0∞} {p : ℝ} (hp : 0 ≤ p) : max x y ^ p = max (
...
+
+theorem rpow_inv_le_iff_of_neg {x y : ℝ≥0∞} {z : ℝ} (hz : z < 0) : x ^ z⁻¹ ≤ y ↔ y ^ z ≤ x := by
+  nth_rw 1 [← neg_neg z, inv_neg, rpow_neg, inv_le_iff_inv_le, le_rpow_inv_iff (neg_pos.2 hz),
+    inv_rpow, ← rpow_neg, neg_neg]
+
+theorem le_rpow_inv_iff_of_neg {x y : ℝ≥0∞} {z : ℝ} (hz : z < 0) : x ≤ y ^ z⁻¹ ↔ y ≤ x ^ z := by
```
Comment (felixpernegger) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: The positve version also has versions for strict inequalities. Maybe include them as well for negative exponent?

File: Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean [hunk 5]
```diff
@@ -153,19 +153,10 @@ nonrec theorem NNReal.tendsto_rpow_atTop {y : ℝ} (hy : 0 < y) :
...
-  by_cases ha' : a = ⊤
-  · simp [ha', hy]
-  lift a to ℝ≥0 using ha'
-  simp only [Set.mem_Ioi, coe_lt_coe] at ha hc
-  rw [← ENNReal.coe_rpow_of_nonneg _ hy.le]
-  exact mod_cast hc a ha
+    Tendsto (fun x : ℝ≥0∞ ↦ x ^ y) (𝓝 ∞) (𝓝 ∞) := by
+  rw [nhds_top_basis_Ici.tendsto_iff nhds_top_basis_Ici]
+  refine fun x hx ↦ ⟨x ^ y⁻¹, (rpow_lt_top_of_nonneg (inv_nonneg.2 hy.le) hx.ne), ?_⟩
+  exact fun z hz ↦ (rpow_inv_le_iff hy).1 hz
```
Comment (felixpernegger) [inline Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean]:
```suggestion
  exact fun _ ↦ (rpow_inv_le_iff hy).mp
```

File: Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean [hunk 6]
```diff
@@ -153,19 +153,10 @@ nonrec theorem NNReal.tendsto_rpow_atTop {y : ℝ} (hy : 0 < y) :
...
-  filter_upwards [hc'] with a ha
-  by_cases ha' : a = ⊤
-  · simp [ha', hy]
-  lift a to ℝ≥0 using ha'
-  simp only [Set.mem_Ioi, coe_lt_coe] at ha hc
-  rw [← ENNReal.coe_rpow_of_nonneg _ hy.le]
-  exact mod_cast hc a ha
+    Tendsto (fun x : ℝ≥0∞ ↦ x ^ y) (𝓝 ∞) (𝓝 ∞) := by
+  rw [nhds_top_basis_Ici.tendsto_iff nhds_top_basis_Ici]
+  refine fun x hx ↦ ⟨x ^ y⁻¹, (rpow_lt_top_of_nonneg (inv_nonneg.2 hy.le) hx.ne), ?_⟩
```
Comment (felixpernegger) [inline Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean]:
```suggestion
  intro x hx
  refine ⟨x ^ y⁻¹, (rpow_lt_top_of_nonneg (inv_nonneg.2 hy.le) hx.ne), ?_⟩
```

this is more personal taste, but i find `refine fun ...` a bit scary

**Comment by felixpernegger** [comment]
awaiting-author

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean (hunk 1 above)
Comment (D-Thomine) [reply Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: ... good point. Thanks!

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean (hunk 3 above)
Comment (D-Thomine) [reply Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: Done.

File: Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean (hunk 6 above)
Comment (D-Thomine) [reply Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean]: I'll admit that I also felt I was pushing it a little. Done.

File: Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean (hunk 5 above)
Comment (D-Thomine) [reply Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean]: Done.

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: Done.

**Comment by D-Thomine** [comment]
Thanks for your review!

I've added the `lt` versions of the new lemmas, and shuffled the `le`/`lt` and `pos`/`neg` versions to put them in a less random order. The proofs of the `lt` version now all follow the slightly cleaner `simp` reduction to their `le` counterpart.

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean (hunk 4 above)
Comment (D-Thomine) [reply Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: Good idea; done!
